US05668128
In substantially the same manner as Working Example 2, morpholine (1.76 ml) was condensed with Boc-L-leucine monohydrate (5.00 g) to give Boc-L-leucylmorpholine (5.76 g) as a colorless oily product (yield 95%). A portion (2.00 g) of this product was taken, and the Boc group was deprotected by using TFA. The resultant compound was treated in substantially the same manner as Working Example 8 to afford L-leucylmorpholine hydrochloride (1.52 g) as a white powdery product (yield 96%). A portion (807 mg) of this product was condensed, in substantially the same manner as Working Example 8, with (2S,3S)-ethyl hydrogen N-Z-aziridine-2,3-dicarboxylate (Compound 1, 100 g) to afford the above-titled compound (Compound 17; 1.06 g) as a white powdery product (yield 65%).

reactant | morpholine | 1.76 ml | N1CCOCC1 | C4H9NO
reactant | Boc-L-leucine monohydrate | 5.00 g | O.C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O
product | Boc-L-leucylmorpholine | 5.76 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)N1CCOCC1 | C15H28N2O4
